US06197959B1
In analogy to the procedure described in example 8(b), the (3R,4R)-3-[1-(3-hydroxy-propyl)-1,2,3,4-tetrahydro-quinolin-7-ylmethoxy]-4-[4-[3-(2,2,2-trifluoro-ethoxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester was reacted with methanesulfonyl chloride to yield the (3R,4R)-3-[1-(3-methanesulfonyloxy-propyl)-1,2,3,4-tetrahydro-quinolin-7-ylmethoxy]-4-[4-[3-(2,2,2-trifluoro-ethoxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester which was used without further purification or characterization.

reactant | (3R,4R)-3-[1-(3-hydroxy-propyl)-1,2,3,4-tetrahydro-quinolin-7-ylmethoxy]-4-[4-[3-(2,2,2-trifluoro-ethoxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C1=CC=C(C=C1)OCCCOCC(F)(F)F)OCC1=CC=C2CCCN(C2=C1)CCCO | C34H47F3N2O6
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | (3R,4R)-3-[1-(3-methanesulfonyloxy-propyl)-1,2,3,4-tetrahydro-quinolin-7-ylmethoxy]-4-[4-[3-(2,2,2-trifluoro-ethoxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C1=CC=C(C=C1)OCCCOCC(F)(F)F)OCC1=CC=C2CCCN(C2=C1)CCCOS(=O)(=O)C | C35H49F3N2O8S
